US07737166B2
2-(Dimethylamino)-7-fluoro-5-methyl-6-(2-methyl-1,3-thiazol-4-yl)-1,3-benzoxazole-4-carbonitrile (I-171)
6-(Bromoacetyl)-2-(dimethylamino)-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-170) (0.60 g, 1.76 mmol) was dissolved in toluene (30 ml), then thioacetamide (0.16 g, 2.13 mmol) and cesium carbonate (0.75 g, 2.30 mmol) were added, followed by stirring at an external temperature of 100° C. for 16 hours. The reaction liquid was diluted with ethyl acetate, washed with water, and dried over anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1 to 1:1) to obtain a yellow solid (0.44 g, 79%).

reactant | 6-(Bromoacetyl)-2-(dimethylamino)-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 1.76 mmol, 0.60 g | BrCC(=O)C=1C(=C2C(N=C(O2)N(C)C)=C(C1C)C#N)F | C13H11BrFN3O2
reactant | thioacetamide | 2.13 mmol, 0.16 g | C(C)(=S)N | C2H5NS
reactant | cesium carbonate | 2.30 mmol, 0.75 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(Dimethylamino)-7-fluoro-5-methyl-6-(2-methyl-1,3-thiazol-4-yl)-1,3-benzoxazole-4-carbonitrile | 0.44 g, 79% | CN(C=1OC=2C(N1)=C(C(=C(C2F)C=2N=C(SC2)C)C)C#N)C | C15H13FN4OS
